US03970703
Into a solution of 1.1 g of sodium methylate in 20 cc of methanol was added a solution of 6.0 g of allyl α-benzyl-α-chlorophenylacetate in 10 cc of methanol under cooling, and the mixture was stirred for 2 hours, whereby white precipitates were deposited. The reaction mixture was poured in water and the resultant was subjected to extraction with ether. The ether extract was washed with an aqueous solution saturated with sodium chloride and dried over sodium sulfate, and thereafter evaporation of ether gave 5.6 g of oily allyl α-benzyl-α-methoxyphenylacetate, nD25 1.5486.

reactant | sodium methylate | 1.1 g | C[O-].[Na+]
reactant | allyl α-benzyl-α-chlorophenylacetate | 6.0 g | C(C1=CC=CC=C1)C(C(=O)OCC=C)(Cl)C1=CC=CC=C1 | C18H17ClO2
solvent | methanol | 20 cc | CO | CH4O
solvent | methanol | 10 cc | CO | CH4O
product | allyl α-benzyl-α-methoxyphenylacetate | 5.6 g | C(C1=CC=CC=C1)C(C(=O)OCC=C)(OC)C1=CC=CC=C1 | C19H20O3
